US07425653B2
(1-1) Synthesis of 2-bromo-6-methylnaphthalene
Under an atmospheric argon gas flow, trifluoromethane sulfonic acid-6-bromo-2-naphthyl ester in an amount of 32 g (90 mmol), dichloro(diphenylphosphinoferrocene)palladium in an amount of 3.6 g (5% by mol), lithium bromide in an amount of 7.8 g (90 mmol) and desiccated tetrahydrofuran in an amount of 100 milliliter were placed into a three neck flask with cooling pipe and having a capacity of 500 milliliter, and then, the resultant solution was cooled down to −20° C. After slowly dripping methylmagnesiumbromide in an amount of 90 milliliter (90 mmol, 1 mol/liter (tetrahydrofuran)) into the flask, the resultant solution was stirred under heating at the temperature of 80° C. for 4 hours. After the reaction terminated, adding dilute hydrochloric acid in an amount of 100 milliliter into the reacted solution, an organic layer was separated and washed with the use of sodium bicarbonate solution and sodium chloride solution, followed by drying with the use of magnesium sulfate. After removing the solvent by distillation by means of a rotary evaporator, the resultant crude product was refined by means of column chromatography (silicagel, hexane/dichloromethane=90/10), and as a result, 9.4 g of aimed compound (white crystal) was obtained (yield: 47%).

reactant | trifluoromethane sulfonic acid-6-bromo-2-naphthyl ester | BrC=1C=C2C=CC(=CC2=CC1)OS(=O)(=O)C(F)(F)F | C11H6BrF3O3S
reactant | lithium bromide | [Br-].[Li+]
reactant | methylmagnesiumbromide | C[Mg]Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-bromo-6-methylnaphthalene | 9.4 g, yield: 47% | BrC1=CC2=CC=C(C=C2C=C1)C | C11H9Br
